US04533731
To 80 ml of anhydrous N,N-dimethylformamide were added 9.7 g of 3-amino-5-iodoindazole as prepared in accordance with the method described in C. E. Kwartler et el., J. Am. Chem. Soc., 65 1804(1943), 8.3 g of 3-bromopropyldiethylamine hydrobromide and 8.3 g of anhydrous potassium carbonate. The mixture was stirred for 24 hours at 80° C. and condensed under reduced pressure. The condensed residue was added with 100 ml of chloroform and 50 ml of water. The chloroform layer was dried over anhydrous sodium sulfate, and chloroform was removed under reduced pressure. The residue thus obtained was subjected to an alumina-column chromatography (alumina: 200 g) using chloroform as the developing solvent to give 7.15 g of 3-(3-diethylaminopropylamino)-5-iodoindazole having the following analytical values in a yield of 51%.

reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | 3-amino-5-iodoindazole | 9.7 g | NC1=NNC2=CC=C(C=C12)I | C7H6IN3
reactant | 3-bromopropyldiethylamine hydrobromide | 8.3 g | Br.BrCCCN(CC)CC
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-diethylaminopropylamino)-5-iodoindazole | 7.15 g, yield of 51% | C(C)N(CCCNC1=NNC2=CC=C(C=C12)I)CC | C14H21IN4
